US03965113
3.5 G. of 2-acetamido-4-(p-methylthiophenoxy)-1-nitrobenzene is treated on the steam bath with 7 ml. 5N sodium hydroxide and 50 ml. methanol for 1 hour. The mixture is concentrated, diluted with water and the 2-amino-4-(p-methylthiophenoxy)-1-nitrobenzene filtered off. This material is treated in 18 ml. concentrated hydrochloric acid with 18 g. stannous chloride on the steam bath for 5 minutes. The mixture is cooled, decanted and the solid washed with 18 ml. 6N hydrochloric acid. The free base is liberated by treatment with potassium bicarbonate and extracted into chloroform. Evaporation of the chloroform leaves crystalline 1,2-diamino-4-(p-methylthiophenoxy)-benzene.

reactant | 2-acetamido-4-(p-methylthiophenoxy)-1-nitrobenzene | C(C)(=O)NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C15H14N2O3S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-(p-methylthiophenoxy)-benzene | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)C)N | C13H14N2S
